US07365065B2
WSC.HCl (640 mg, 3.4 mmol) and 4-(dimethylamino)pyridine (330 mg, 2.7 mmol) were added to a solution of tert-butyl N-(3-carboxybenzyl)-N-methylcarbamate (700 mg, 2.6 mmol) and 1,2,3,4-tetrahydroquinoxalin-2-one (440 mg, 2.9 mmol) in dichloromethane (20 ml). The mixture was stirred for 18 h, reduced in vacuo and taken up in ethyl acetate. This solution was washed with 0.3N potassium hydrogen sulphate and saturated sodium hydrogen carbonate solutions, dried and reduced. Chromatography (50% EtOAc/50% 60-80 pet.ether) afforded tert-butyl N-(3-(1,2,3,4-tetrahydroquinoxalin-3-on-1-carbonyl) benzyl)-N-methylcarbamate (280 mg, 27%) as an orange oil.

reactant | WSC.HCl | 3.4 mmol, 640 mg | CCN=C=NCCCN(C)C.Cl
reactant | tert-butyl N-(3-carboxybenzyl)-N-methylcarbamate | 2.6 mmol, 700 mg | C(=O)(O)C=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C14H19NO4
reactant | 1,2,3,4-tetrahydroquinoxalin-2-one | 2.9 mmol, 440 mg | N1C(CNC2=CC=CC=C12)=O | C8H8N2O
catalyst | 4-(dimethylamino)pyridine | 2.7 mmol, 330 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-(3-(1,2,3,4-tetrahydroquinoxalin-3-on-1-carbonyl) benzyl)-N-methylcarbamate | 280 mg, 27% | N1(CC(NC2=CC=CC=C12)=O)C(=O)C=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C22H25N3O4
